US04555247
Preparation of 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenyl β,γ-dihydroxypropyl ether
0.2 mol (39.6 g) of 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenol is dissolved in 125 ml of 2N sodium carbonate solution. 0.25 mol (27.5 g) of 1-chloropropane-2,3-diol is added to this solution, heated beforehand to about 90° C. Heating is maintained for a further 2 hours. After cooling, the reaction medium is extracted with ethyl acetate. After the solvent has been evaporated off to dryness, 29 g of the desired product are obtained in the form of orange crystals.

reactant | 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenol | 0.2 mol, 39.6 g | [N+](=O)([O-])C=1C=C(C=CC1NCCO)O | C8H10N2O4
reactant | 1-chloropropane-2,3-diol | 0.25 mol, 27.5 g | ClCC(CO)O | C3H7ClO2
solvent | sodium carbonate | 2N, 125 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 3-nitro-4-[N-(β-hydroxyethyl)-amino]-phenyl β,γ-dihydroxypropyl ether | OC(COC1=CC(=C(C=C1)NCCO)[N+](=O)[O-])CO | C11H16N2O6
